Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ACA aneurysm
 
Major Surgical or Invasive Procedure:
___ - Midline craniotomy for clipping of distal ACA 
aneurysm

 
History of Present Illness:
___ is a ___ gentleman who was involved
with radio ___.  He smoked in the past, but there were many
years where he was not a heavy smoker.  

On ___, he developed right head pain and headache.  This
persisted for few days, and he ultimately sought medical
attention.  A CT scan was done, which showed no evidence of
hemorrhage.  However, a CT with contrast was performed and have
available a sagittal and axial reconstruction.  Sagittal
reconstruction quite clearly shows a distal anterior cerebral
artery aneurysm, which is approximately 4 mm in diameter.  I had
a long discussion with the patient and his wife regarding the
natural history of aneurysms, including treatment options of
endovascular and surgical management.  The size of 4 mm with
apparent vessels in this location are quite small in the order 
of
2 mm and therefore consideration for treatment would be given. 
The treatment options for this lesion would include open 
surgical
clipping and endovascular coiling.  

I do plan to review the films in more detail at our 
neurovascular
group here at the ___ Brain Aneurysm Institute.  It may well 
be
that an angiogram would be necessary to better define the
three-dimensional anatomy of lesion especially its relationship
to the parent vessels within the neck to determine whether 
indeed
the direct coiling or stent-assisted coiling would be necessary
for aneurysm obliteration.  The patient seemed to have a good
overall understanding of the situation.  

He had no focal neurologic deficits on today's evaluation.  He
and his wife both had excellent questions, which I tried to
answer to the best of my abilities.  Please let me know if there
is any further information I can provide for you at this point 
in
time and thank you again for your kind referral.
 
Past Medical History:
Arthritis
Gout
Reflux, on omeprazole
Hypertension
s/p synovectomy of knees bilaterally
s/p tonsillectomy
s/p andenoidectomy 
 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION ON DISCHARGE:

Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  4-3mm bilaterally      EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Wound: 
          [x]Incision Clean, dry, intact
          [x]Sutures 
         

 
Pertinent Results:
Please see OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
#Distal ACA aneurysm
The patient was taken to the operating room on the day of 
admission, ___ and underwent a Midline craniotomy for 
clipping of distal ACA aneurysm. He tolerated the procedure well 
and was extubated in the operating room. He was later 
transferred to the PACU for recovery. He was later transferred 
to the ___ for close neurologic monitoring.   On POD1, his 
blood pressure was liberalized, and patient was mobilized.  He 
remained neuro intact and was transferred to the floor. His post 
operative headaches were well controlled with PO pain meds. 
Patient remained neuro intact and was medically stable for 
discharge home on ___. 
 
Medications on Admission:
Lisinopril 20 mg PO/NG DAILY 
Zolpidem Tartrate 10 mg PO QHS insomnia 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
Please take this while taking narcotic pain medication.  
3.  Dexamethasone 3 mg PO Q12H Duration: 1 Dose 
This is dose # 1 of 2 tapered doses
RX *dexamethasone 1 mg ___ tablet(s) by mouth every twelve (12) 
hours Disp #*7 Tablet Refills:*0 
4.  Dexamethasone 2 mg PO Q12H Duration: 2 Doses 
This is dose # 2 of 2 tapered doses 
5.  Docusate Sodium 100 mg PO BID 
Please take this while taking narcotic pain medication.  
6.  Famotidine 20 mg PO BID 
Please take this while taking steroids.  
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*5 
Tablet Refills:*0 
7.  Ondansetron 4 mg PO Q8H:PRN nausea Duration: 10 Days 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*25 Tablet Refills:*0 
8.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
Please wean off of this medication. Do not drive while taking 
this medication.  
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*100 Tablet Refills:*0 
9.  Senna 17.2 mg PO QHS 
Please take this while taking narcotic pain medication.  
10.  Lisinopril 20 mg PO DAILY  
11.  Propranolol LA 60 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Distal ACA aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___ 
___ Aneurysm ___

Call your neurosurgeon’s office and speak to the Nurse 
Practitioner if you experience:

- Any neurological issues, such as change in vision, speech or 
movement

- Swelling, drainage, or redness of your incision

- Any problems with medications, such as nausea vomiting or 
lethargy

- Fever greater than 101.5 degrees Fahrenheit

- Headaches not relieved with prescribed medications

Activity:

- Start to resume all activities as you tolerate – but start 
slowly and increase at your own pace.

- Do not operate any motorized vehicle for at least 10 days 
after your surgery – your Nurse Practitioner can give you more 
detail at the time of your suture removal.  

Incision Care:

- Keep your wound clean and dry.

- Do not use shampoo until your sutures are removed. 

- When you are allowed to shampoo your hair, let the shampoo run 
off the incision line.  Gently pad the incision with a towel to 
dry.

- Do not rub, scrub, scratch, or pick at any scabs on the 
incision line.

- You need your sutures removed 7 to 10 days after surgery

Post-Operative Experiences: 

Physical

- Jaw pain on the same side as your surgery; this goes away 
after about a month

- You may experience constipation.  Constipation can be 
prevented by:

- Drinking plenty of fluids

- Increasing fiber in your diet by eating vegetables, prunes, 
fiber rich breads and cereals, or fiber supplements

- Exercising

- Using over-the-counter bowel stimulants or laxatives as 
needed, stopping usage if you experience loose bowel movements 
or diarrhea

- Fatigue which will slowly resolve over time

- Numbness or tingling in the area of the incision; this can 
take weeks or months to fully resolve

- Muffled hearing in the ear near the incision area

- Low back pain or shooting pain down the leg which can resolve 
with increased activity

Post-Operative Experiences: Emotional

- You may experience depression.  Symptoms of depression can 
include

- Feeling “down” or sad

- Irritability, frustration, and confusion

- Distractibility

- Lower Self-Esteem/Relationship Challenges

- Insomnia

- Loneliness

- If you experience these symptoms, you can contact your Primary 
Care Provider who can make a referral to a Psychologist or 
Psychiatrist

- You can also seek out a local Brain Aneurysm Support Group in 
your area through the Brain Aneurysm Foundation

- More information can be found at ___

Follow-up Instructions for Dr. ___:

- You will need to be seen in ___ days from surgery for suture 
removal.

- You will need to see Dr. ___ in ___ weeks for follow up. 
Please call our office at ___ to make this appointment. 


- Please call ___ with any questions or concerns. 

 
Followup Instructions:
___